US07838675B2
i) 4-Chloro-2-[[(2,3-difluorophenyl)methyl]thio]-6-methoxypyrimidine
To a stirred solution of 4,6-Dichloro-2-[(2,3-difluorobenzyl)thio]pyrimidine (the product of Example 1, step ii) (5 g) in dry methanol (40 mL) was added 60% sodium hydride (0.68 g) batchwise over 5 min. The reaction mixture was stirred for 5 h, H2O added and the solvents were partially evaporated. The residue was extracted with EtOAc which was washed with H2O, dried (MgSO4) and the solvent evaporated under reduced pressure. The residue was purified by flash chromatography on silica gel, eluting with Et2O/iso-hexane (5:95) to give the subtitle compound as a white solid. Yield: 4.05 g.

reactant | 4,6-Dichloro-2-[(2,3-difluorobenzyl)thio]pyrimidine | ClC1=NC(=NC(=C1)Cl)SCC1=C(C(=CC=C1)F)F | C11H6Cl2F2N2S
reactant | sodium hydride | 0.68 g | [H-].[Na+]
reactant | H2O | O | H2O
reactant | methanol | 40 mL | CO | CH4O
product | 4-Chloro-2-[[(2,3-difluorophenyl)methyl]thio]-6-methoxypyrimidine | ClC1=NC(=NC(=C1)OC)SCC1=C(C(=CC=C1)F)F | C12H9ClF2N2OS
